US04275065
A. 6-Chloro-2-(p-chlorophenyl)thiazolo[2,3-b]benzothiazolium bromide
An acetone solution of 10.0 g (0.05 moles) 5-chloro-2-mercaptobenzothiazole and 12.5 g. (0.01 moles) α-bromo-(p-chloro)phenylacetic acid containing 50 ml. glacial acetic acid and 20 ml. acetic anhydride is heated in an open flask. When the solution is concentrated to a small volume, the precipitated solid, weighing 15.1 g. (70% yield) is collected.

reactant | acetone | CC(=O)C | C3H6O
reactant | 5-chloro-2-mercaptobenzothiazole | 0.05 moles, 10.0 g | ClC=1C=CC2=C(N=C(S2)S)C1 | C7H4ClNS2
reactant | α-bromo-(p-chloro)phenylacetic acid | 0.01 moles, 50 ml | BrC(C(=O)O)C1=CC=C(C=C1)Cl | C8H6BrClO2
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 6-Chloro-2-(p-chlorophenyl)thiazolo[2,3-b]benzothiazolium bromide | 70% yield | [Br-].ClC=1C=CC2=C([N+]3=C(S2)SC(=C3)C3=CC=C(C=C3)Cl)C1 | InChI=1S/C15H8Cl2NS2.BrH/c16-10-3-1-9(2-4-10)14-8-18-12-7-11(17)5-6-13(12)19-15(18)20-14;/h1-8H;1H/q+1;/p-1
